US06231833B1
A solution of 0.39 g (1.4 mmol) of (7S,9aR)-2-BOC-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine, 0.24 g (2.2 mmol) of 4-fluorophenol and 0.45 g (1.7 mmol) of triphenyl phosphine in 20 mL of dry THF was treated with 0.27 mL (1.7 mmol) of diethyl azodicarboxylate, and stirred at ambient temperature for 16 h. The solution was diluted with ethyl acetate and treated with excess HCl(g) in ethyl ether. The solvent was evaporated and the white, solid residue was washed with 1:1 ethyl acetate:ethyl ether. The solid remaining was dissolved in chloroform and washed with 1M NaOH, dried (magnesium sulfate), filtered and evaporated to give 0.45 g of (7S,9aR)-2-BOC-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine.

reactant | (7S,9aR)-2-BOC-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 1.4 mmol, 0.39 g | C(=O)(OC(C)(C)C)N1C[C@@H]2N(CC1)C[C@H](CC2)CO | C14H26N2O3
reactant | 4-fluorophenol | 2.2 mmol, 0.24 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | triphenyl phosphine | 1.7 mmol, 0.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.7 mmol, 0.27 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | HCl | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | (7S,9aR)-2-BOC-7-(4-fluorophenoxy)methyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 0.45 g | C(=O)(OC(C)(C)C)N1C[C@@H]2N(CC1)C[C@H](CC2)COC2=CC=C(C=C2)F | C20H29FN2O3
